US07208497B2
1-(4-Chlorophenyl)-4-(4-cyclopentylpiperazin-1-yl)butane-1,4-dione hydrochloride
To a mixture of 3-(4-chlorobenzoyl)propionic acid (31.9 g, 150 mmol), DMF (200 ml), and N-hydroxybenzotriazole (40.6 g, 301 mmol) was added a solution of N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (28.8 g, 150 mmol) in DMF (100 ml). The mixture was stirred at room temperature for 1.5 hour, and a solution of 1-cyclopentylpiperazine (23.2 g, 150 mmol) in DCM (100 ml) was added. The mixture was stirred at room temperature for 4 hours, concentrated under reduced pressure, and the residue was distributed between ethyl acetate (1.0 I) and a saturated, aqueous NaHCO3 solution (1.0 I). Phases were separated, the organic layer was dried (MgSO4), and concentrated, and the residue was redissolved in 1 molar aqueous hydrochloric acid (150 ml). The solution was concentrated, and the residue was dried by coevaporation with ethanol. Recrystallization of the residue from ethanol yielded 31.1 g (54%) of the title compound. Concentration of the mother liquor gave additional 19.4 g (34%) of product.

reactant | 3-(4-chlorobenzoyl)propionic acid | 150 mmol, 31.9 g | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
reactant | N-hydroxybenzotriazole | 301 mmol, 40.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 150 mmol, 28.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-cyclopentylpiperazine | 150 mmol, 23.2 g | C1(CCCC1)N1CCNCC1 | C9H18N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chlorophenyl)-4-(4-cyclopentylpiperazin-1-yl)butane-1,4-dione hydrochloride | 31.1 g, 54% | Cl.ClC1=CC=C(C=C1)C(CCC(=O)N1CCN(CC1)C1CCCC1)=O | InChI=1S/C19H25ClN2O2.ClH/c20-16-7-5-15(6-8-16)18(23)9-10-19(24)22-13-11-21(12-14-22)17-3-1-2-4-17;/h5-8,17H,1-4,9-14H2;1H
